### PR TITLE
Msg dep limited equivocation

### PR DESCRIPTION
**Pull request by traiansf**

### CODE REVIEW

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 1]
```diff
@@ -0,0 +1,195 @@
...
+        pre_VLSM_full_projection_finite_trace_project
+            annotated_type (type X) id original_state
+            (k {| original_state := destination item; state_annotation := annotated_transition_state (l item) (sa, input item) |}).
+Proof.
+  destruct item. reflexivity.
+Qed.
+
+Definition annotate_trace_from (sa : @state _ annotated_type) (tr : list (vtransition_item X))
+  : list (@transition_item _ annotated_type) :=
+  fold_right annotate_trace_item (fun sa => []) tr sa.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:99]: I have an aversion to folds in Coq, if I were you I would just write this definition out in full.

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+  intro sa.
+  change ((item :: tr1) ++ tr2) with (item :: (tr1 ++ tr2)).
+  rewrite !annotate_trace_from_unroll.
+  simpl.
+  rewrite IHtr1.
+  f_equal.
+  f_equal.
+  f_equal.
+  rewrite finite_trace_last_cons.
+  reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:125]:
```suggestion
  revert sa.
  induction tr1 as [|item tr1]; [reflexivity|].
  intro sa.
  rewrite <- app_comm_cons, !annotate_trace_from_unroll.
  simpl.
  rewrite IHtr1, finite_trace_last_cons.
  reflexivity.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+Lemma annotate_trace_project is tr
+  : pre_VLSM_full_projection_finite_trace_project
+      annotated_type (type X) id original_state
+      (annotate_trace is tr)
+      = tr.
+Proof.
+  unfold annotate_trace.
+  remember {| original_state := is |} as sa.
+  clear Heqsa.
+  revert sa.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:153]:
```suggestion
  remember {| original_state := is |} as sa; clear Heqsa; revert sa.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 4]
```diff
@@ -0,0 +1,195 @@
...
+  apply basic_VLSM_strong_full_projection.
+  - cbv; intuition.
+  - intros l (s,a) om (s', a') om'.
+    cbn.
+    unfold annotated_transition.
+    cbn.
+    destruct (vtransition _ _ _) as (_s', _om').
+    inversion 1; reflexivity.
+  - cbv; intuition.
+  - cbv; intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:192]:
```suggestion
  apply basic_VLSM_strong_full_projection.
  1, 3-4: cbv; intuition.
  intros l (s,a) om (s', a') om'.
  cbn; unfold annotated_transition; cbn.
  destruct (vtransition _ _ _) as (_s', _om').
  inversion 1; reflexivity.
```

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 5]
```diff
@@ -0,0 +1,782 @@
...
+
+Definition coeqv_composite_transition_message_equivocators
+  (l : composite_label IM)
+  (som : annotated_state (free_composite_vlsm IM) (set validator) * option message)
+  : set validator :=
+  match som.2 with
+  | None => state_annotation som.1
+  | Some m =>
+    set_union (state_annotation som.1) (coeqv_message_equivocators (original_state som.1) m)
+  end.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:38]:
```suggestion
Definition coeqv_composite_transition_message_equivocators
  (l : composite_label IM)
  (som : annotated_state (free_composite_vlsm IM) (set validator) * option message)
  : set validator :=
  match som with
  | (sa, None) => state_annotation sa
  | (sa, Some m) =>
    set_union (state_annotation sa) (coeqv_message_equivocators (original_state sa) m)
  end.
```

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 6]
```diff
@@ -0,0 +1,782 @@
...
+
+Lemma coeqv_limited_equivocation_transition_state_annotation_incl [l s iom s' oom]
+  : vtransition coeqv_limited_equivocation_vlsm l (s, iom) = (s', oom) ->
+    state_annotation s ⊆ state_annotation s'.
+Proof.
+  cbn.
+  unfold annotated_transition.
+  destruct (vtransition _ _ _) as (_s', _om').
+  inversion 1.
+  cbn.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:65]: I think it's a good idea to bundle unfolding steps together using `;` (here `cbn` and `unfold ...`) and also bundle mess-producing tactics (here `inversion`) with cleanup tactics (here `cbn`).

```suggestion
  cbn; unfold annotated_transition.
  destruct (vtransition _ _ _) as (_s', _om').
  inversion 1; cbn.
```

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 7]
```diff
@@ -0,0 +1,782 @@
...
+    cbn.
+    destruct (vtransition _ _ _) as (si', om').
+    inversion 1.
+    subst.
+    clear Ht.
+    setoid_rewrite full_node_msg_dep_composite_transition_message_equivocators
+    ; [reflexivity|eassumption].
+Qed.
+
+Lemma full_node_msg_dep_limited_equivocation_vlsm_incl
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:290]: This lemma's proof looks very much like the proof of the previous lemma. Isn't there some (conceptual) duplication going on which could be factored out?

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 8]
```diff
@@ -0,0 +1,782 @@
...
+      apply elem_of_map_option.
+      exists dm.
+      split; [|assumption].
+      apply elem_of_list_filter.
+      split; [assumption|].
+      rewrite full_message_dependencies_happens_before.
+      assumption.
+    }
+    eapply msg_dep_happens_before_composite_no_initial_valid_messages_emitted_by_sender
+    ; [eassumption|eassumption|eassumption|eassumption|..|eassumption].
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:402]:
```suggestion
    1-4, 6: eassumption.
```

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 9]
```diff
@@ -0,0 +1,782 @@
...
+  apply valid_preloaded_lifts_can_be_emitted with dm_i (fun m => m ∈ message_dependencies dm)
+  ; [assumption|..]; cycle 1.
+  - eapply message_dependencies_are_sufficient; [apply HMsgDep|assumption].
+  - intros dm' Hdm'.
+    apply Hind.
+    + apply msg_dep_happens_before_iff_one. left. assumption.
+    + transitivity dm; [|assumption].
+      apply msg_dep_happens_before_iff_one. left. assumption.
+Unshelve.
+  apply set_union_subseteq_right.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:465]: I think it's a good idea to keep the `Unshelve` near the place where the shelved goals were generated, instead of putting it at the end (if you can't avoid it altogether, that is).

```suggestion
  - eapply message_dependencies_are_sufficient; [apply HMsgDep|assumption].
    Unshelve. apply set_union_subseteq_right.
  - intros dm' Hdm'.
    apply Hind.
    + apply msg_dep_happens_before_iff_one. left. assumption.
    + transitivity dm; [|assumption].
      apply msg_dep_happens_before_iff_one. left. assumption.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 10]
```diff
@@ -0,0 +1,195 @@
...
+  vinitial_state_prop X (original_state sa) /\ initial_annotation_prop (state_annotation sa).
+
+Global Program Instance annotated_initial_state_prop_inhabited
+  : Inhabited (sig annotated_initial_state_prop) :=
+  populate (exist _ {| original_state := ` (vs0 X); state_annotation := ` inhabitant  |} _).
+Next Obligation.
+  split; cbn.
+  - destruct (vs0 X). assumption.
+  - destruct inhabitant. assumption.
+Qed.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/AnnotatedVLSM.v:38]: While I generally might agree, Program here is exposing the structure, but hiding the proof of the obligation, which was the effect I was aiming for. So... I'm not sure.

File: theories/VLSM/Core/AnnotatedVLSM.v (hunk 1 above)
Comment (traiansf) [reply theories/VLSM/Core/AnnotatedVLSM.v:99]: I actually like folds in Coq (and in general) :-)
It saves me the trouble of proving some append lemmas by induction.
This fold is indeed nasty, as its result is actually a function, but unless you're giving me better arguments than your aversion, I would prefer to keep it as-is.

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v (hunk 9 above)
Comment (traiansf) [reply theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:463]: I agree, but, is there any way to see that a goal was shelved right at the moment where it was?

File: theories/VLSM/Core/AnnotatedVLSM.v (hunk 10 above)
[the remark this answers is not in the document]
Comment (wkolowski) [reply theories/VLSM/Core/AnnotatedVLSM.v:38]: @traiansf

Well, maybe it's ok in this case as it's just an `Instance` that ends with `Qed`, but for ordinary proof-relevant definitions I would still try to avoid it. For example, I did remove all `Program` uses from ELMO because they interfered with the generation of functional induction principles by the `Function` command.

File: theories/VLSM/Core/AnnotatedVLSM.v (hunk 1 above)
Comment (wkolowski) [reply theories/VLSM/Core/AnnotatedVLSM.v:96]: @traiansf

My aversion is motivated by past experiences I can't recall now : ) Maybe it had something to do with bad computational behavior (unfolds too much with `cbn`)... but I certainly have missed that you need to prove less `append` lemmas when using folds. Maybe I should give them another chance : )

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v (hunk 9 above)
Comment (wkolowski) [reply theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v]: @traiansf

If you use a tactic that starts with `e` and then everything goes to easily to be true, then you should be suspicious : )

On a more serious note, after you use `Unshelve`, use binary search to find where in the proof script it was generated.

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 11]
```diff
@@ -0,0 +1,678 @@
...
+Lemma annotated_limited_incl_constrained_limited
+  {is_equivocating_tracewise_no_has_been_sent_dec : RelDecision (is_equivocating_tracewise_no_has_been_sent IM (fun i => i) sender)}
+  : VLSM_full_projection
+      Limited
+      (limited_equivocation_vlsm_composition IM sender)
+      Datatypes.id original_state.
+Proof.
+  constructor; intros sX trX HtrX.
+  eapply traces_exhibiting_limited_equivocation_are_valid ; [apply Hsender_safety|].
+  apply msg_dep_fixed_limited_equivocation; assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:675]:
```suggestion
  constructor; intros sX trX HtrX.
  eapply traces_exhibiting_limited_equivocation_are_valid.
  - apply Hsender_safety.
  - apply msg_dep_fixed_limited_equivocation; assumption.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v [hunk 12]
```diff
@@ -243,6 +243,52 @@ Proof.
...
+    equivocators_state_project final_descriptors final_state = final_stateX /\
+    finite_valid_trace (msg_dep_limited_equivocation_vlsm IM full_message_dependencies sender)
+      {| original_state := isX; state_annotation := ` inhabitant |}
+      (msg_dep_annotate_trace_with_equivocators IM full_message_dependencies sender isX trX).
+Proof.
+  eapply equivocators_limited_valid_trace_projects_to_fixed_limited_equivocation in Htr
+    as (trX & initial_descriptors & Hinitial_descriptors & Hpr & Hlst_pr & Hpr_limited)
+  ; [|eassumption].
+  exists trX, initial_descriptors.
+  repeat (split; [assumption|]).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:284]: I think using `intuition` here is more robust.

```suggestion
  cbn; intuition.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v [hunk 13]
```diff
@@ -107,6 +107,52 @@ Proof.
...
+  (message_dependencies : message -> set message)
+  (HMsgDep : forall i, MessageDependencies message_dependencies (IM i))
+  (full_message_dependencies : message -> set message)
+  (HFullMsgDep : FullMessageDependencies message_dependencies full_message_dependencies)
+  (no_initial_messages_in_IM : no_initial_messages_in_IM_prop IM)
+  (sender : message -> option index)
+  (Hchannel : channel_authentication_prop IM Datatypes.id sender)
+  .
+
+Lemma equivocators_limited_valid_trace_projects_to_annotated_limited_equivocation_rev
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:122]: Maybe you should put all the `exists` at the beginning, and only then the conjunctions? This way, the proof would be much simpler.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v [hunk 14]
```diff
@@ -107,6 +107,52 @@ Proof.
...
+  eapply msg_dep_fixed_limited_equivocation in HtrX.
+  2-5: eassumption.
+  apply limited_equivocators_finite_valid_trace_init_to_rev in HtrX
+   as (is & His_pr & s & Hpr_s & tr & Htr_pr & Htr & Houtput)
+  ; [|assumption].
+  eexists; split; [eassumption|].
+  subst.
+  exists s.
+  rewrite Hpr_s.
+  erewrite <- pre_VLSM_full_projection_finite_trace_last.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:145]:
```suggestion
  eexists; split; [eassumption | subst].
  exists s.
  erewrite Hpr_s, <- pre_VLSM_full_projection_finite_trace_last.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v [hunk 15]
```diff
@@ -107,6 +107,52 @@ Proof.
...
+  split; [reflexivity|].
+  exists tr.
+  split; [assumption|].
+  split; [assumption|].
+  rewrite <- Houtput.
+  apply pre_VLSM_full_projection_finite_trace_last_output.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:152]: Maybe you should put all the `exists` at the beginning, and only then the conjunctions? This way, the proof would be much simpler. I would suggest to phrase it like this (note that I will not commit this suggestion and leave it up to you):

```suggestion
Lemma equivocators_limited_valid_trace_projects_to_annotated_limited_equivocation_rev
  isX sX trX
  (HtrX : finite_valid_trace_init_to (msg_dep_limited_equivocation_vlsm IM full_message_dependencies sender) isX sX trX)
  : exists is s tr,
      equivocators_total_state_project IM is = original_state isX
      /\ equivocators_total_state_project IM s = original_state sX
      /\ equivocators_total_trace_project IM tr
          =
         pre_VLSM_full_projection_finite_trace_project
          (annotated_type (free_composite_vlsm IM) (set index)) (composite_type IM) Datatypes.id original_state
          trX
      /\ finite_valid_trace_init_to XE is s tr
      /\ finite_trace_last_output trX = finite_trace_last_output tr.
Proof.
  apply valid_trace_get_last in HtrX as HeqsX.
  eapply valid_trace_forget_last, msg_dep_fixed_limited_equivocation
      in HtrX.
  2-5: eassumption.
  apply limited_equivocators_finite_valid_trace_init_to_rev
     in HtrX as (is & His_pr & s & Hpr_s & tr & Htr_pr & Htr & Houtput)
  ; [| assumption].
  eexists is, s, tr; subst; intuition.
  - erewrite Hpr_s, <- pre_VLSM_full_projection_finite_trace_last; reflexivity.
  - rewrite <- Houtput. apply pre_VLSM_full_projection_finite_trace_last_output.
Qed.
```

**Review by wkolowski — APPROVED** [review]
Looks good, I will commit some slight improvements.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v (hunk 13 above)
Comment (traiansf) [reply theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:122]: I don't know. For my proof style  it seemed to be easier this way, because I could discharge the conclusions one by one;  but I see your point; perhaps if/when we switch to using records it would become a non-issue.
